US04093617
7-Isopentyl-5-trifluoromethylpyrazolo[1,5-a]pyrimidine
A solution of 2.0 gm of 3-aminopyrazole (0.024 mol) in 50 ml EtOH was refluxed with 5.0 gm of 1,1,1, -trifluoro-7-methyl-2,4-octanedione (0.024 mol) for 2 hours. The mixture was evaporated and distilled to yield 1.6 gm (48%) of a slightly yellowish oil, b.p. 103°-105°/0.5 mm.

reactant | 3-aminopyrazole | 0.024 mol, 2.0 gm | NC1=NNC=C1 | C3H5N3
reactant | trifluoro-7-methyl-2,4-octanedione | 0.024 mol | FC(C(CC(CCC(C)C)=O)=O)(F)F | C9H13F3O2
solvent | EtOH | 50 ml | CCO | C2H6O
product | 7-Isopentyl-5-trifluoromethylpyrazolo[1,5-a]pyrimidine | C(CC(C)C)C1=CC(=NC=2N1N=CC2)C(F)(F)F | C12H14F3N3
